US06960607B2
3-(5-Bromo-6-hydroxy-2-naphthyl)-1,2-benzisoxazol-6-ol
Bromine (0.11 mL, 2.17 mmol) in acetic acid (3 mL) was added dropwise into cold (5° C.) mixture of 3-(6-hydroxy-2-naphthyl)-1,2-benzisoxazol-6-ol (0.6 g, 2.17 mmol) and acetic acid (10 mL). The mixture was stirred for 30 min, poured into water and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexanes/EtOAc 1/1) gave an off-white solid (0.41 g, 53% yield, m.p. 275-277° C.); MS m/e 354 (M−H)+.

reactant | Bromine | 2.17 mmol, 0.11 mL | BrBr | Br2
reactant | 3-(6-hydroxy-2-naphthyl)-1,2-benzisoxazol-6-ol | 2.17 mmol, 0.6 g | OC=1C=C2C=CC(=CC2=CC1)C1=NOC2=C1C=CC(=C2)O | C17H11NO3
reactant | water | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-(5-Bromo-6-hydroxy-2-naphthyl)-1,2-benzisoxazol-6-ol | 0.41 g, 53% yield | BrC1=C2C=CC(=CC2=CC=C1O)C1=NOC2=C1C=CC(=C2)O | C17H10BrNO3
